US05885986
A solution of 1.0 g (0.0028 mol) of (S)-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 50 ml of tetrahydrofuran was treated with 4.6 ml (0.034 mol) of dipropylamine. After stirring at reflux for 16 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with ethyl acetate/tetrahydrofuran 2:1 as the eluent. There were obtained 1.04 g (95%) of (S)-1-(4-dipropylaminomethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one as a pale yellow oil; [α]D20 =-253.8° (MeOH, c=1%).

reactant | (S)-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.0028 mol, 1.0 g | ClCC=1N=C(SC1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C17H13ClN4OS
reactant | dipropylamine | 0.034 mol, 4.6 ml | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (S)-1-(4-dipropylaminomethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.04 g, 95% | C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C23H27N5OS
